US08242125B2
127-B. 5-(2,5-Dimethyl-pyrrol-1-yl)-2-methyl-2H-pyrazole-3-carboxylic acid dimethylamide
To a solution of 3-(2,5-dimethyl-pyrrol-1-yl)-1-methyl-1H-pyrazole (2.0 g, 11.4 mmol) in THF (100 mL) at −78° C., 2.5M nBuLi in Hexane (5.5 mL, 13.7 mmol) is added. After stirring for 1.5 hour dimethylcarbamyl chloride (1.26 mL, 13.7 mmol) is added. After 10 min the ice bath is removed and the reaction allowed to reach room temperature and stir at room temperature for 2 hour before being poured into water, separated, and the water layer extracted with DCM. The organic layers are combined and concentrated. The residue is purified by FCC to give the title compound. MS (ESI) m/z 247.2 (M+1).

reactant | 3-(2,5-dimethyl-pyrrol-1-yl)-1-methyl-1H-pyrazole | 11.4 mmol, 2.0 g | CC=1N(C(=CC1)C)C1=NN(C=C1)C | C10H13N3
reactant | nBuLi | 2.5M | [Li]CCCC
reactant | Hexane | 13.7 mmol, 5.5 mL | CCCCCC | C6H14
reactant | dimethylcarbamyl chloride | 13.7 mmol, 1.26 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-(2,5-Dimethyl-pyrrol-1-yl)-2-methyl-2H-pyrazole-3-carboxylic acid dimethylamide | CN(C(=O)C=1N(N=C(C1)N1C(=CC=C1C)C)C)C | C13H18N4O
